US03957783
To a solution of 4.0 g of 4-(o-chlorophenyl)-1,2-dihydrothieno[2,3-d]pyrimidin-2-one in 80 ml of dimethylformamide is added 0.82 g of 63% sodium hydride. The resulting mixture is stirred at room temperature for 30 minutes. Then, 6.48 g of methyl iodide in 33 ml of dimethylformamide is added dropwise thereto. The mixture is stirred for 2 hours at room temperature. The reaction mixture is poured into water and extracted with chloroform. The chloroform extracts are washed with water, dried over sodium sulfate, and the solvent is removed under reduced pressure. The residue is chromatographed on silica gel, using chloroform as an eluent. From the first fraction, 2-methoxy-4-(o-chlorophenyl)-thieno[2,3-d]pyrimidine is obtained as crystals having a melting point of 172.5° - 174.5°C (after recrystallization from ether). From the second fraction, 1-methyl-4-(o-chlorophenyl)-1,2-dihydrothieno[2,3-d]pyrimidin-2-one is obtained as crystals having a melting point of 225° - 226°C (after recrystallization from chloroform-ethanol). From the third fraction, 3-methyl-4-(o-chlorophenyl)-3H-thieno[2,3-d]pyrimidin-2-one is obtained as crystals having a melting point of 190° - 192°C (after recrystallization from ethanol-ether).

reactant | 4-(o-chlorophenyl)-1,2-dihydrothieno[2,3-d]pyrimidin-2-one | 4.0 g | ClC1=C(C=CC=C1)C=1C2=C(NC(N1)=O)SC=C2 | C12H7ClN2OS
reactant | sodium hydride | 0.82 g | [H-].[Na+]
reactant | methyl iodide | 6.48 g | CI | CH3I
reactant | water | O | H2O
solvent | dimethylformamide | 80 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 33 ml | CN(C=O)C | C3H7NO
product | 2-methoxy-4-(o-chlorophenyl)-thieno[2,3-d]pyrimidine | COC=1N=C(C2=C(N1)SC=C2)C2=C(C=CC=C2)Cl | C13H9ClN2OS
